### PR TITLE
[Merged by Bors] - feat(Algebra/MvPolynomial/Basic): `coeff_C_of_ne_zero` and `coeff_add_single_C`

### PR DESCRIPTION
**Pull request by justus-springer**
These lemmas are multivariate analogs to `Polynomial.coeff_C_of_ne_zero`, `Polynomial.coeff_C_succ` and `PowerSeries.coeff_C_of_ne_zero` and `PowerSeries.coeff_succ_C`. They are useful for defining partial derivatives for multivariate power series, see PR #39626.

- [x] depends on: #39632

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 1]
```diff
@@ -593,6 +593,14 @@ theorem coeff_C [DecidableEq σ] (m) (a) :
     coeff m (C a : MvPolynomial σ R) = if 0 = m then a else 0 :=
   Finsupp.single_apply
 
+theorem coeff_ne_zero_C {m : σ →₀ ℕ} (h : m ≠ 0) {a : R} : coeff m (C a) = 0 := by
```
Comment (wwylele) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]: I believe neither this or `Polynomial.coeff_C_ne_zero` are the correct name. It should be

```suggestion
theorem coeff_C_of_ne_zero {m : σ →₀ ℕ} (h : m ≠ 0) {a : R} : coeff m (C a) = 0 := by
```

**Comment by wwylele** [comment]
It looks like there is build failure due to the rename of existing lemma. I suggest putting the rename in a separate PR

**Comment by justus-springer** [comment]
Yes, this occurrence must have slipped through. I've split off the renaming as #39632.

**Review by wwylele — APPROVED** [review]

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 2]
```diff
@@ -593,6 +593,14 @@ theorem coeff_C [DecidableEq σ] (m) (a) :
     coeff m (C a : MvPolynomial σ R) = if 0 = m then a else 0 :=
   Finsupp.single_apply
 
+theorem coeff_C_of_ne_zero {m : σ →₀ ℕ} (h : m ≠ 0) {a : R} : coeff m (C a) = 0 := by
+  classical rw [coeff_C, if_neg h.symm]
+
+@[simp]
+theorem coeff_add_single_C {m : σ →₀ ℕ} {a : R} {i : σ} :
+    coeff (m + Finsupp.single i 1) (C a) = 0 :=
+  coeff_C_of_ne_zero <| fun H ↦ by simpa using congr($(H) i)
```
Comment (Hagb) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]:
```suggestion
@[simp]
theorem coeff_add_single_C {n : ℕ} [NeZero n] {m : σ →₀ ℕ} {a : R} {i : σ} :
    coeff (m + Finsupp.single i n) (C a) = 0 :=
  coeff_C_of_ne_zero <| fun H ↦ by simpa [NeZero.ne] using congr($(H) i)
```

**Review by Hagb — APPROVED** [review]
Maybe with `NeZero` so that it can simplify cases with other positive literals? I am not sure whether it is a good practice here though.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 3]
```diff
@@ -351,6 +351,14 @@ theorem coeff_C [DecidableEq σ] (n : σ →₀ ℕ) (a : R) :
 theorem coeff_zero_C (a : R) : coeff (0 : σ →₀ ℕ) (C a) = a :=
   coeff_monomial_same 0 a
 
+theorem coeff_C_of_ne_zero {n : σ →₀ ℕ} (h : n ≠ 0) {a : R} : coeff n (C a) = 0 := by
+  classical rw [coeff_C, if_neg h]
+
+@[simp]
+theorem coeff_add_single_C {n : σ →₀ ℕ} {a : R} {i : σ} :
+    coeff (n + single i 1) (C a) = 0 :=
+  coeff_C_of_ne_zero <| fun H ↦ by simpa using congr($(H) i)
```
Comment (Hagb) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean]:
```suggestion
@[simp]
theorem coeff_add_single_C {m : ℕ} [NeZero m] {n : σ →₀ ℕ} {a : R} {i : σ} :
    coeff (n + single i m) (C a) = 0 :=
  coeff_C_of_ne_zero <| fun H ↦ by simpa [NeZero.ne] using congr($(H) i)
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 4]
```diff
@@ -593,6 +593,14 @@ theorem coeff_C [DecidableEq σ] (m) (a) :
     coeff m (C a : MvPolynomial σ R) = if 0 = m then a else 0 :=
   Finsupp.single_apply
 
+theorem coeff_C_of_ne_zero {m : σ →₀ ℕ} (h : m ≠ 0) {a : R} : coeff m (C a) = 0 := by
+  classical rw [coeff_C, if_neg h.symm]
+
+@[simp]
+theorem coeff_add_single_C {n : ℕ} [NeZero n] {m : σ →₀ ℕ} {a : R} {i : σ} :
```
Comment (tb65536) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]: I would advocate against `NeZero` since it means that a `rw` will fail (requiring a separate `have : NeZero n` line) rather than spitting out an extra hypothesis (which could usually be in-lined with `(by grind)`).

Comment (Hagb) [reply Mathlib/Algebra/MvPolynomial/Basic.lean]: But it seems to me that, cases where `NeZero` will automatically work strictly contains cases where the original `coeff (m + Finsupp.single i 1) (C a) = 0` version works, except for cases where non-transparent definitional equality is used?

Comment (tb65536) [reply Mathlib/Algebra/MvPolynomial/Basic.lean]: No, I'm just saying that `NeZero n` should be replaced by an explicit `(hn : n != 0)`.

Comment (tb65536) [reply Mathlib/Algebra/MvPolynomial/Basic.lean]: Ah sorry, I see your point. Certainly `[NeZero]` is strictly better than just having the version with the explicit `1`. And I suppose that `coeff_C_of_ne_zero` can always be used for non-literals. Nevermind then.

Comment (tb65536) [reply Mathlib/Algebra/MvPolynomial/Basic.lean]: Maybe add a comment to these theorems saying that the intended use case is for when `n = 1` to make it clearer why we have them?

**Comment by faenuccio** [comment]
@justus-springer Can you update master here as well? Thanks

**Comment by justus-springer** [comment]
@faenuccio I updated master, no changes were necessary. Is this mergeable soon?

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 5]
```diff
@@ -593,6 +593,15 @@ theorem coeff_C [DecidableEq σ] (m) (a) :
     coeff m (C a : MvPolynomial σ R) = if 0 = m then a else 0 :=
   Finsupp.single_apply
 
+theorem coeff_C_of_ne_zero {m : σ →₀ ℕ} (h : m ≠ 0) {a : R} : coeff m (C a) = 0 := by
+  classical rw [coeff_C, if_neg h.symm]
+
+-- The inteded use case of this theorem is for `n = 1` (often useful for `pderiv`).
```
Comment (NoahW314) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]:
```suggestion
-- The intended use case of this theorem is for `n = 1` (often useful for `pderiv`).
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 6]
```diff
@@ -351,6 +351,15 @@ theorem coeff_C [DecidableEq σ] (n : σ →₀ ℕ) (a : R) :
 theorem coeff_zero_C (a : R) : coeff (0 : σ →₀ ℕ) (C a) = a :=
   coeff_monomial_same 0 a
 
+theorem coeff_C_of_ne_zero {n : σ →₀ ℕ} (h : n ≠ 0) {a : R} : coeff n (C a) = 0 := by
+  classical rw [coeff_C, if_neg h]
+
+-- The inteded use case of this theorem is for `m = 1` (often useful for `pderiv`).
```
Comment (NoahW314) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean]:
```suggestion
-- The intended use case of this theorem is for `m = 1` (often useful for `pderiv`).
```

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 7]
```diff
@@ -593,6 +593,15 @@ theorem coeff_C [DecidableEq σ] (m) (a) :
     coeff m (C a : MvPolynomial σ R) = if 0 = m then a else 0 :=
   Finsupp.single_apply
 
+theorem coeff_C_of_ne_zero {m : σ →₀ ℕ} (h : m ≠ 0) {a : R} : coeff m (C a) = 0 := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/Basic.lean]: Should `a` be explicit here? Similarly `a` and `i` below.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 8]
```diff
@@ -351,6 +351,15 @@ theorem coeff_C [DecidableEq σ] (n : σ →₀ ℕ) (a : R) :
 theorem coeff_zero_C (a : R) : coeff (0 : σ →₀ ℕ) (C a) = a :=
   coeff_monomial_same 0 a
 
+theorem coeff_C_of_ne_zero {n : σ →₀ ℕ} (h : n ≠ 0) {a : R} : coeff n (C a) = 0 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean]: Same.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/MvPolynomial/Basic.lean (hunk 7 above)
Comment (justus-springer) [reply Mathlib/Algebra/MvPolynomial/Basic.lean]: Sure, let's make it explicit.
